US08802670B2
To a solution of 1-Piperidin-4-ylmethyl-pyrrolidin-2-one hydrochloride salt in anhydrous 1,2-dichloroethane was added triethylamine (47 μL), the reaction mixture was stirred at room temperature for 2 hours. 2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (99 mg) and glacial acetic acid were added, the reaction mixture was stirred at room temperature for 4 hours. Sodium triacetoxyborohydride (96 mg) was added. The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane, washed with a 50/50 mixture of saturated sodium bicarbonate solution and brine, dried (MgSO4) and the solvents removed in vacuo to give a crude residue. This was purified using column chromatography to give 2-[1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-ylmethyl]-cyclopentanone (73 mg).

reactant | 1-Piperidin-4-ylmethyl-pyrrolidin-2-one hydrochloride salt | Cl.N1CCC(CC1)CN1C(CCC1)=O
reactant | triethylamine | 47 μL | C(C)N(CC)CC | C6H15N
reactant | 2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | 99 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | Sodium triacetoxyborohydride | 96 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[1-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-ylmethyl]-cyclopentanone | 73 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)CC2C(CCC2)=O)N2CCOCC2 | C22H29ClN4O2S
